US08426414B2
Part A. ((1S,2S)-1-Formyl-2-methyl-butyl)-carbamic acid tert-butyl ester
To an ice cold solution of Boc-isoleucinol (3.89 g, 17.9 mmol) in DMSO (15 mL) and DCM (200 mL) was added DIEA (9.7 mL, 55.5 mmol), followed by dropwise addition of a solution of Py.SO3 (8.83 g, 55.5 mmol) in DMSO (50 mL, +10 mL to rinse the funnel). The reaction mixture was stirred at rt for 2 h. After removal of the DCM, the residue was diluted with Et2O (400 mL) and washed with H2O (2×100 mL) and brine (150 mL). The aqueous layer was back extracted with Et2O (100 mL). The combined Et2O layer was washed with saturated NaHCO3 (150 mL) and dried (Na2SO4). The solvent was removed to give the titled compound (3.97 g).

reactant | Boc-isoleucinol | 17.9 mmol, 3.89 g | C(=O)(OC(C)(C)C)N[C@@H]([C@@H](C)CC)CO | C11H23NO3
reactant | DIEA | 55.5 mmol, 9.7 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMSO | 15 mL | CS(=O)C | C2H6OS
solvent | DCM | 200 mL | C(Cl)Cl | CH2Cl2
product | ((1S,2S)-1-Formyl-2-methyl-butyl)-carbamic acid tert-butyl ester | 3.97 g | C(C)(C)(C)OC(N[C@@H]([C@H](CC)C)C=O)=O | C11H21NO3
